US05405851
A mixture of 3-amino-5,6-dihydro-7,9-dimethylbenzo[f]quinazolin-1(2H)one (0.25 g, 1.04 mmole) and 10% palladium on carbon (0.5 g) in diglyme (25 ml) was vigorously stirred and refluxed under a nitrogen atmosphere for 2.5 hours, and then filtered while still hot through a bed of celite. Diglyme was removed from the filtrate under reduced pressure, and the residue was triturated with hot methanol, filtered, washed with methanol and ether, and dried to give 3-amino-7,9-dimethylbenzo[f]quinazolin-1(2H)-one as an off-white solid. (0.14 g, 55%) 1H NMR(DMSO-d6, 200 MHz) δ: 2.43(s, 3H, CH3); 2.60(s, 3H, CH3); 6.48(s, 2H, NH2); 7.14(s, 1H, Ar); 7.25(d, J=9.2 Hz, 1H, Ar); 8.11(d, J=9.1 Hz, 1H, Ar); 9.38(s, 1H, Ar); 11.07(s, 1H, NH).

reactant | 3-amino-5,6-dihydro-7,9-dimethylbenzo[f]quinazolin-1(2H)one | 1.04 mmole, 0.25 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3C)C | C14H15N3O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | diglyme | 25 ml | COCCOCCOC | C6H14O3
product | 3-amino-7,9-dimethylbenzo[f]quinazolin-1(2H)-one | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3C)C | C14H13N3O
